US05364989
To a solution of 2.10 g (0.0118 mol) of 1,1,1-trichloro-2-nitroethane in 30 ml of tetrahydrofuran was dropwise added a solution of 1.2 g (0.0118 mol) of triethylamine in 2 ml of tetrahydrofuran under cooling to 0° C. and with stirring. To the mixture which was stirred for 30 minutes was dropwise added a solution of 0.99 g (0.011 mol) of 50% dimethylamine and 2.4 g (0.0237 mol) of triethylamine in 5 ml of tetrahydrofuran at -43° C.--38° C. The mixture was stirred for 30 minutes at the same temperature and 1.0 g (0.007 mol) of 6-chloro-3-pyridylmethylamine was dropwise added. The mixture was allowed to stand until rising to room temperature, stirred for 30 minutes and then filtered. The filtrate was concentrated, and 1,2-dichloroethane was added to the residue. The mixture was again filtered to remove insoluble substance. The filtrate was concentrated and the residue was purified by silica gel column chromatography using acetone to obtain 1.46 g (81.0%) of 1-(6-chloro-3-pyridylmethyl)amino-1-dimethylamino- 2-nitroethylene as yellow crystals. mp. 124°-125° C.

reactant | 1,1,1-trichloro-2-nitroethane | 0.0118 mol, 2.10 g | ClC(C[N+](=O)[O-])(Cl)Cl | C2H2Cl3NO2
reactant | triethylamine | 0.0118 mol, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | 0.011 mol, 0.99 g | CNC | C2H7N
reactant | triethylamine | 0.0237 mol, 2.4 g | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-3-pyridylmethylamine | 0.007 mol, 1.0 g | ClC1=CC=C(C=N1)CN | C6H7ClN2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(6-chloro-3-pyridylmethyl)amino-1-dimethylamino- 2-nitroethylene | 1.46 g, 81.0% | ClC1=CC=C(C=N1)CNC(=C[N+](=O)[O-])N(C)C | C10H13ClN4O2
